US07863450B2
1.5 Synthesis of 1-{3-[4-(4,4-dimethyl-4,5-dihydro-1,3-oxazol-2-yl)phenoxy]propyl}piperidine 1
A mixture of 2-[4-(3-chloropropoxy)phenyl]-4,4-dimethyl-4,5-dihydro-1,3-oxazole ax10 (0.5 g, 1.87 mmol, 1 eq) and piperidine (0.37 ml, 3.73 mmol, 2 eq) is stirred in a sealed tube at 100° C. overnight. The mixture is then concentrated under vacuum to give 0.8 g of an orange solid. This solid is purified by chromatography on silica gel (eluent: dichloromethane/ethanol 95:5) to obtain 0.49 g of 1-{3-[4-(4,4-dimethyl-4,5-dihydro-1,3-oxazol-2-yl)phenoxy]propyl}piperidine 1 as an orange oil.

reactant | 2-[4-(3-chloropropoxy)phenyl]-4,4-dimethyl-4,5-dihydro-1,3-oxazole | ClCCCOC1=CC=C(C=C1)C=1OCC(N1)(C)C | C14H18ClNO2
reactant | piperidine | 3.73 mmol, 0.37 ml, 2 eq | N1CCCCC1 | C5H11N
product | 1-{3-[4-(4,4-dimethyl-4,5-dihydro-1,3-oxazol-2-yl)phenoxy]propyl}piperidine | 0.8 g, Yield: 83% | CC1(N=C(OC1)C1=CC=C(OCCCN2CCCCC2)C=C1)C | C19H28N2O2
